US08420849B2
Methyl 2-thioacetyl-2-(3,4-dichlorophenyl)acetate
A toluene (403 mL) solution of methyl 2-(3,4-dichlorophenyl)-2-bromoacetate (134 g, 0.451 mol) was dropwise added to a methanol (403 mL) solution of potassium thioacetate (67.7 g, 0.586 mol, 1.3 equivalent amounts based on the starting material) at 5° C. over a period of 15 minutes, followed by stirring at 5° C. for 1 hour. The formed solid was subjected to filtration, and the filtrate was mixed with toluene (403 mL), sequentially washed with water, a saturated sodium hydrogencarbonate aqueous solution, a saturated ammonium chloride aqueous solution and a saturated salt solution, and dried over anhydrous magnesium sulfate. The drying agent was removed by filtration, and the solvent was distilled off to give the desired product as a yellow oil (136 g, yield: 103%).

reactant | toluene | 403 mL | C1(=CC=CC=C1)C | C7H8
reactant | methyl 2-(3,4-dichlorophenyl)-2-bromoacetate | 0.451 mol, 134 g | ClC=1C=C(C=CC1Cl)C(C(=O)OC)Br | C9H7BrCl2O2
reactant | potassium thioacetate | C(C)(=S)[O-].[K+]
solvent | methanol | 403 mL | CO | CH4O
product | Methyl 2-thioacetyl-2-(3,4-dichlorophenyl)acetate | 136 g, yield: 103% | C(C)(=S)C(C(=O)OC)C1=CC(=C(C=C1)Cl)Cl | C11H10Cl2O2S
